US05519133
Preparation of Methyl 3-(5-fluoro-2-nitrophenyl)tetrahydro-5-methyl-2,4,6-trioxo-s-triazine-1(2H)-acetate
Methyl iodide (5.0 mL, 80.31 mmol) and potassium carbonate (11.12 g, 80.45 mmol) are added to a solution of methyl 3-(5-fluoro-2-nitrophenyl)tetrahydro-2,4,6-trioxo-s-triazine-1-(2H)-acetate (25.65 g, 75.40 mmol) in N,N-dimethylformamide. The reaction mixture is stirred at room temperature overnight, concentrated in vacuo and poured into water. The aqueous mixture is extracted with ethyl acetate. The organic extracts are combined, washed sequentially with water, 0.08M sodium metabisulfite solution and brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to obtain a yellow oil. The oil is dissolved in a refluxing ethyl acetate/ether (1:1) solution and the resultant solution is chilled and treated dropwise with hexanes to obtain a solid. The solid is collected, washed with an ether/ethyl acetate/hexanes (1:1:8) solution and dried overnight in vacuo at 50° C. to give the title product as a solid, mp 121.8°-122.3° C.

reactant | Methyl iodide | 80.31 mmol, 5.0 mL | CI | CH3I
reactant | potassium carbonate | 80.45 mmol, 11.12 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 3-(5-fluoro-2-nitrophenyl)tetrahydro-2,4,6-trioxo-s-triazine-1-(2H)-acetate | 75.40 mmol, 25.65 g | FC=1C=CC(=C(C1)N1C(N(C(NC1=O)=O)CC(=O)OC)=O)[N+](=O)[O-] | C12H9FN4O7
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethyl acetate ether | C(C)(=O)OCC.CCOCC
product | Methyl 3-(5-fluoro-2-nitrophenyl)tetrahydro-5-methyl-2,4,6-trioxo-s-triazine-1(2H)-acetate | FC=1C=CC(=C(C1)N1C(N(C(N(C1=O)C)=O)CC(=O)OC)=O)[N+](=O)[O-] | C13H11FN4O7
